Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization ___

 
History of Present Illness:
___ y/o M with h/o morbid obesity and family history of early CAD 
who presented to the ED with ___ weeks of worsening burping, 
bloating and chest pain radiating to his shoulder. He states 
that he feels L chest radiating to his shoulder, crampy in 
nature, that comes on intermittently associated when he feels 
like he needs to burp, relieved afterwards that occurs when he 
goes up a flight of stairs. He reports these symptoms sometimes 
come on after eating and last a few hours. He states he has not 
been active recently. His pain is not associated with nausea, 
vomiting, or diaphoresis. States he has been noticing dyspnea as 
well that will occur intermittently, sometimes at rest when he 
is laying down. Denies orthopnea, PND, or snoring at night. He 
also has been having L arm pain intermittently, believes he may 
be sleeping on it. Also states he has been having memory issues 
starting last week such that he cannot remember his boss's name. 
He denies any fevers, chills, cough, sore throat, abdominal 
pain, diarrhea, constipation, dysuria.  
In the ED initial vitals were: 98 84 143/81 18 100% RA  
 
Labs/studies notable for: trop negx2. Chem panel wnl. WBC: 3.7. 
D-dimer 210.  
CXR with no acute process.  
CTA head/neck wnl.  
 
Patient was given: ASA 243mg x2  
In the ED, he had two negative troponins and nuclear stress test 
which revealed partially reversible large moderate severity 
perfusion defect in RCA distribution. Cardiology consulted and 
recommending cardiac cath tomorrow.  
Neuro also consulted for poor memory, and deemed poor memory may 
be secondary to attention.  
 
Vitals on transfer: 98.1 62 102/64 16 98% RA  
 
On the floor, Patient is chest pain free. States the last time 
he had chest pain was earlier this morning when he was moving 
around, but resolved very shortly.  
 
REVIEW OF SYSTEMS:  
Positive per HPI.  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope, or presyncope.  

On further review of systems, denies fevers or chills. Denies 
any prior history of stroke, TIA, deep venous thrombosis, 
pulmonary embolism, bleeding at the time of surgery, myalgias, 
joint pains, cough, hemoptysis, black stools or red stools. 
Denies exertional buttock or calf pain. All of the other review 
of systems were negative.  

 
Past Medical History:
History of peptic ulcer disease, H. pylori infection, s/p 
Prevpac  
anxiety  
depression  
morbid obesity.  
 
Social History:
___
Family History:
Mom died of brain tumor at age ___. Dad died of a heart attack at 
age ___. He has one brother and one sister with no medical 
problems. No family history of type 2 diabetes or colon cancer.  

 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
VS: T98.3 127/75 75 18 97% RA  
Weight: 186.9kg  
GENERAL: Obese black male in no acute distress.  
HEENT: PERRL. EOMI. MMM  
NECK: Supple. JVP not elevated at 45 degrees  
CARDIAC: RRR. No mrg.  
LUNGS: Unlabored breathing. Distant breath sounds due to girth  
ABDOMEN: +BS. Soft, non-tender, non-distended. No hepatomegaly. 
No splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.

DISCHARGE PHYSICAL EXAM: 
GENERAL: no acute distress, NAD  
HEENT: EOMI 
NECK: no JVD  
CARDIAC: RRR, nl S1 S2, no murmurs/rubs/gallops  
LUNGS: clear to auscultation bilaterally 
ABDOMEN: soft, NT, ND, NABS
EXT: WWP
SKIN: no rash 
NEURO: moving all extremities spontaneously, CN2-12 grossly 
intact   
 
Pertinent Results:
ADMISSION LABS: 
___ 12:00PM BLOOD WBC-3.7* RBC-5.06 Hgb-14.8 Hct-46.8 
MCV-93 MCH-29.2 MCHC-31.6* RDW-14.4 RDWSD-48.3* Plt ___
___ 12:00PM BLOOD Neuts-58.8 ___ Monos-8.2 Eos-3.0 
Baso-0.3 Im ___ AbsNeut-2.16 AbsLymp-1.07* AbsMono-0.30 
AbsEos-0.11 AbsBaso-0.01
___ 12:55PM BLOOD ___ PTT-31.9 ___
___ 12:00PM BLOOD UreaN-14 Creat-1.2 Na-145 K-5.1 Cl-105 
HCO3-26 AnGap-19
___ 12:00PM BLOOD ALT-20 AST-18 CK(CPK)-228 AlkPhos-81 
TotBili-0.6
___ 12:55PM BLOOD cTropnT-<0.01
___ 12:00PM BLOOD Albumin-4.3 Calcium-9.6 Phos-3.4 Mg-2.0 
UricAcd-9.5* Cholest-162

PERTINENT INTERVAL LABS: 
___ 07:09PM BLOOD cTropnT-<0.01
___ 12:00PM BLOOD VitB12-530
___ 01:16PM BLOOD D-Dimer-210
___ 12:00PM BLOOD %HbA1c-5.0 eAG-97
___ 12:00PM BLOOD Triglyc-121 HDL-36 CHOL/HD-4.5 
LDLcalc-102
___ 04:30AM BLOOD TSH-2.7
___ 12:00PM BLOOD 25VitD-11*
___ 12:00PM BLOOD HBsAg-Negative HBsAb-Negative 
HBcAb-Negative
___ 12:00PM BLOOD HCV Ab-Negative
___ 12:00PM BLOOD METHYLMALONIC ACID-Test  

DISCHARGE LABS: 
___ 06:46AM BLOOD WBC-4.1 RBC-4.82 Hgb-14.1 Hct-44.2 MCV-92 
MCH-29.3 MCHC-31.9* RDW-14.2 RDWSD-48.0* Plt ___
___ 06:46AM BLOOD Glucose-101* UreaN-14 Creat-1.1 Na-138 
K-4.2 Cl-104 HCO3-26 AnGap-12
___ 12:55PM BLOOD ALT-20 AST-19 AlkPhos-79 TotBili-0.5
___ 06:46AM BLOOD Calcium-8.9 Phos-4.0 Mg-2.0

MICROBIOLOGY: N/A

IMAGING/STUDIES: 

MRI BRAIN ___  
There is no evidence of hemorrhage, edema, mass, mass effect, or 
infarction. There is no parenchymal signal abnormality. There is 
no focus of slow diffusion. Principal intracranial vascular flow 
voids are preserved. The ventricles and sulci are 
age-appropriate. The ethmoid air cells are partially opacified 
and there is a mucous retention cyst in the right maxillary 
sinus, unchanged. The orbits are grossly unremarkable. 
IMPRESSION: Unremarkable noncontrast enhanced brain MRI, except 
for chronic sinus disease as described. 
  
CARDIAC CATH ___
Dominance: Right
* Left Main Coronary Artery
The LMCA is normal
* Left Anterior Descending
The LAD is normal
* Circumflex
The Circumflex is normal
* Right Coronary Artery
The RCA is normal

STRESS MIBI ___. Probable partially reversible, large, moderate severity 
perfusion defect involving the RCA territory in the setting of 
significant attenuation.  
2. Normal left ventricular cavity size and systolic function.   
  
CTA HEAD AND NECK ___. No acute intracranial abnormality. 
2. Patent intracranial arterial vasculature without significant 
stenosis, 
occlusion, or dissection. 
3. Neck CTA is severely limited by body habitus, however the 
common carotid arteries and distal branches appear grossly 
patent.  The proximal vertebral arteries are not well assessed, 
however appear grossly patent distally.  No frank evidence for 
occlusion. 
4. The adenoids and palatine tonsils are prominent, without 
focal mass lesion. Clinical correlation is recommended. 

 
Brief Hospital Course:
Mr. ___ is a ___ with PMH of morbid obesity and family 
history of early CAD who presented with bloating and chest pain 
x1-2 weeks, evaluated with p-MIBI c/f reversible RCA lesion, 
then subsequently cardiac catheterization which showed normal 
coronary arteries. His chest pain symptoms were thought to be 
related to dyspepsia and he was started on omeprazole. The 
patient also reported transient aphasic episodes prior to 
admission. He was evaluated by neurology, found to have negative 
CTA head/neck, TTE w/o thrombus and negative MRI brain. He was 
discharged on ASA81mg daily and will follow up as outpatient for 
EEG to rule out seizure. 

# CHEST PAIN: Patient presented with 2 weeks of exertional chest 
discomfort associated with symptoms of burping/belching. His 
cardiac enzymes were negative x2 in the ED. ECG was w/o changes. 
Patient underwent pMIBI in the ED which showed possible reversal 
defect in RCA territory. He underwent cardiac cath which showed 
no coronary disease. His symptoms were thought to be related to 
GERD vs. dyspepsia. He was started on omeprazole 20mg daily and 
should f/u with PCP as outpatient for further evaluation. The 
patient has already been treated with triple antibiotic therapy 
for H pylori. Can consider testing for eradication as 
outpatient. 

# APHASIC EPISODES: Patient reported several episodes of 
forgetfulness and 3 discreet episodes of aphasia in the weeks 
prior to presentation. He was evlauted with CTA head and neck 
which was negative. He was evaluated by neurology who 
recommended w/u with MRI brain (which was preliminary negative), 
TTE which showed no evidence of thrombus. Telemetry showed no 
evidence of AF. He will f/u with neurology as outpatient for EEG 
to evaluate for possible seizure and for further evaluation. Lab 
work-up including TSH, B12 and MMA was within normal limits. The 
patient was started on aspirin 81mg daily. 

# THROMBOCYTOPENIA: plts slightly low during admission, in 130s, 
remained stable. Consider repeat CBC as outpatient for further 
evaluation. 

Transitional Issues: 
- Cardiac cath showed no vessel blockage. Trop was negative and 
no changes on EKG. We did not start the patient on statin 
because his ASCVD risk score was calculated approximately 3%. 
Would however recommended continued counseling about weight 
loss, healthy diet and exercise. 
- Noted to have low platelets while hospitalized to 128 of 
unclear etiology. Consider repeat CBC after discharge for 
further evaluation.
- Started on omeprazole 20mg daily as suspect pain sensation GI 
in origin. Patient w/history of ulcers s/p treatment for H 
pylori. Consider repeat H pylori testing to ensure eradiation, 
consider further GI referral 
- Patient should follow up with neurology after discharge for 
further work-up of his aphasic episodes. Should have routine EEG 
after discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D 1000 UNIT PO DAILY 
2. flaxseed oil 1,000 mg oral DAILY 

 
Discharge Medications:
1.  Aspirin EC 81 mg PO DAILY  
2.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth every day Disp #*30 
Capsule Refills:*0 
3.  flaxseed oil 1,000 mg oral DAILY  
4.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Non-ischemic chest pain
#obesity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
  
It was a pleasure taking care of you at the ___ 
___. You were admitted because you chest 
pain. We did a cardiac cath to look at the vessels in your heart 
and found no blockage. 

While in the hospital, you reported some episodes in which you 
felt unable to speak. Our neurology team evaluated you with a CT 
scan of your head and an MRI of your brain which showed no 
concerning changes. You should follow up with neurology after 
discharge for an EEG. 

You should continue aspirin 81mg daily. We started you on 
omeprazole 20mg daily for your gastrointestinal complaints. You 
should follow up with your PCP after discharge for further 
management. 

We wish you the best! 
 
Your ___ Cardiac Care Team  
 
Followup Instructions:
___